US07595397B2
(S)-2-Phenyl-morpholine-4-carboxylic acid tert-butyl ester
3 g of (S)-(2-Hydroxy-ethyl)-(2-hydroxy-2-phenyl-ethyl)-carbamic acid tert-butyl ester and 0.327 g of triphenylphosphine were dissolved in 53.3 mL toluene. 0.217 g of diethylazodicarboxylate in 5.4 mL toluene was added dropwise to the resulting solution at room temperature under argon atmosphere and the mixture was stirred overnight. The solvent was removed in vacuo and the material purified by column chromatography.

reactant | (S)-(2-Hydroxy-ethyl)-(2-hydroxy-2-phenyl-ethyl)-carbamic acid tert-butyl ester | 3 g | C(C)(C)(C)OC(N(C[C@H](C1=CC=CC=C1)O)CCO)=O | C15H23NO4
reactant | triphenylphosphine | 0.327 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 0.217 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | toluene | 53.3 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5.4 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-2-Phenyl-morpholine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H](OCC1)C1=CC=CC=C1 | C15H21NO3
